US05037938
PREPARATION OF 1,4-BIS(4-ACETOXYBENZOYLOXY)-2-METHYLBENZENE
An amount of 4-acetoxybenzoic acid (9.0 g, 0.05 mole) and 45 ml of thionyl chloride (74.5 g, 0.63 mole) were refluxed on a steam bath for 4 hours in a 100-ml, single neck, round bottom flask equipped with a reflux condenser, magnetic stir bar and drying tube. The reflux condenser was replaced with a distillation head, condenser and receiver and the excess thionyl chloride was distilled. When the rate of distillation slowed, a vacuum was applied to remove the last traces of unreacted thionyl chloride. The remaining colorless oil was taken up in 180 ml of methylene chloride and the solution was cooled to 5° C. In a one-pint bottle, methylhydroquinone (2.79 g, 22.5 millimoles (mmol)) was quickly dissolved in a solution of sodium hydroxide (2.4 g, 60 mmol) and sodium pyrosulfite (0.19 g, 1 mmol) in 50 ml of water which had been purged with nitrogen. Tetrabutylammonium bromide (0.16 g, 0.5 mmol) was added and the solution was cooled to 5° C. The acid chloride solution in methylene chloride was added and the capped bottle was shaken for 16 hours. The two layers were separated and the lower organic layer was washed with aqueous 1 N hydrochloric acid, a 5 percent solution of sodium bicarbonate and water. The solution was dried over magnesium sulfate and reduced to dryness leaving a white crystalline solid which was recrystallized from 550 ml of methanol. There remained 8.0 g of white crystalline solid with a m.p. of 127.5° C. to 129.5° C.

reactant | 4-acetoxybenzoic acid | 0.05 mole, 9.0 g | C(C)(=O)OC1=CC=C(C(=O)O)C=C1 | C9H8O4
reactant | thionyl chloride | 0.63 mole, 45 ml, 74.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | methylhydroquinone | 22.5 millimoles, 2.79 g | CC1=C(O)C=CC(=C1)O | C7H8O2
reactant | sodium hydroxide | 60 mmol, 2.4 g | [OH-].[Na+]
reactant | sodium pyrosulfite | 1 mmol, 0.19 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 50 ml | O | H2O
catalyst | Tetrabutylammonium bromide | 0.5 mmol, 0.16 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1,4-BIS(4-ACETOXYBENZOYLOXY)-2-METHYLBENZENE | C(C)(=O)OC1=CC=C(C(=O)OC2=C(C=C(C=C2)OC(C2=CC=C(C=C2)OC(C)=O)=O)C)C=C1 | C25H20O8
